US08633211B2
Intermediate L (2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-yl)-acetic acid tert butyl ester
To a cooled (<5° C.) solution of (2-amino-benzoylamino)-acetic acid tert-butyl ester (33 g, 0.132 mol) in DCM (200 ml), a solution of triphosgene (14.08 g, 0.047 mol) in DCM (70 ml) is added dropwise over 30 minutes, keeping the temperature below 5° C. The resulting white/cream precipitate is treated dropwise with triethylamine (21 ml, 0.145 mol), keeping the temperature of the reaction below 5° C. The bright yellow reaction mixture is gradually allowed to warm to RT and stirred overnight. Water (250 ml) is added to the reaction mixture with stirring. Mixture is partitioned and the aqueous phase is washed with DCM (100 ml). The organic extracts are combined, washed with NaHCO3 (2×200 ml), water (2×150 ml), brine (200 ml), and concentrated in vacuo to give a pale orange solid. This is then slurried in isohexane for 30 minutes, filtered, then taken up in DCM (90 ml) with heating. The solution is then placed in the fridge over the weekend. The crystalline material formed is filtered and washed with a minimal amount of cold DCM to afford the title compound.

reactant | (2-amino-benzoylamino)-acetic acid tert-butyl ester | 0.132 mol, 33 g | C(C)(C)(C)OC(CNC(C1=C(C=CC=C1)N)=O)=O | C13H18N2O3
reactant | triphosgene | 0.047 mol, 14.08 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.145 mol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 250 ml | O | H2O
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 ml | C(Cl)Cl | CH2Cl2
solvent | isohexane | CCCC(C)C | C6H14
product | (2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-yl)-acetic acid tert butyl ester | C(C)(C)(C)OC(CN1C(NC2=CC=CC=C2C1=O)=O)=O | C14H16N2O4
